US07915424B2
3-(5-Bromopyridin-3-ylethynyl)-benzonitrile
Prepare essentially as described in PREPARATION 17 using a 1 M solution of tetrabutylammonium fluoride in tetrahydrofuran (4.2 mL, 4.2 mmol), 3,5-dibromopyridine (1.00 g, 4.2 mmol), 3-trimethylsilanylethynylbenzonitrile (0.84 g, 4.2 mmol), (prepared as described in PREPARATION 5), bis(triphenylphosphine)palladium (II) dichloride (0.06 g, 0.08 mmol) and copper (I) iodide (0.03 g, 0.17 mmol) to give the title compound (0.45 g, 39%).

reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | tetrahydrofuran | 4.2 mmol, 4.2 mL | O1CCCC1 | C4H8O
reactant | 3,5-dibromopyridine | 4.2 mmol, 1.00 g | BrC=1C=NC=C(C1)Br | C5H3Br2N
reactant | 3-trimethylsilanylethynylbenzonitrile | 4.2 mmol, 0.84 g | C[Si](C)(C)C#CC=1C=C(C#N)C=CC1 | C12H13NSi
catalyst | bis(triphenylphosphine)palladium | 0.08 mmol, 0.06 g | C1([P]([Pd][P](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)=CC=CC=C1
catalyst | copper (I) iodide | 0.17 mmol, 0.03 g | [Cu]I
product | 3-(5-Bromopyridin-3-ylethynyl)-benzonitrile | 0.45 g, 39% | BrC=1C=C(C=NC1)C#CC=1C=C(C#N)C=CC1 | C14H7BrN2
